US06410592B1
C: cis-2-(N-Benzylmethylamino)methyl-6-benzyloxy-1-phenyl-1,2,3,4-tetrahydronaphthalene
To a mixture of cesium carbonate (1.09 g), cis-2-(N-benzylmethylamino)methyl-6-hydroxy-1-phenyl-1,2,3,4-tetrahydronaphthalene (600 mg) and N,N-dimethylformamide (10 cm3) was added benzyl bromide (0.236 cm3). The resulting mixture was warmed to 80° C. and stirred for 2 h. Upon cooling, water (50 cm3) was added and the aqueous mass was extracted with ether (2×50 cm3). The combined ether extracts were washed with water (30 cm3), dried (Na2SO4), filtered and the solvent was evaporated under reduced pressure to afford a yellow oil. This was purified by column chromatography [silica, eluting with petroleum ether (b.p. 40-60° C.)-ethyl acetate (15:1)] to afford the title compound (538 mg; 72%) as a light yellow oil.

reactant | cesium carbonate | 1.09 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cis-2-(N-benzylmethylamino)methyl-6-hydroxy-1-phenyl-1,2,3,4-tetrahydronaphthalene | 600 mg | C(C1=CC=CC=C1)CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)O)C1=CC=CC=C1 | C25H27NO
reactant | N,N-dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
reactant | benzyl bromide | 0.236 cm3 | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 50 cm3 | O | H2O
product | cis-2-(N-Benzylmethylamino)methyl-6-benzyloxy-1-phenyl-1,2,3,4-tetrahydronaphthalene | 538 mg, 72% | C(C1=CC=CC=C1)CNC[C@@H]1[C@@H](C2=CC=C(C=C2CC1)OCC1=CC=CC=C1)C1=CC=CC=C1 | C32H33NO
